Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Mirapex / gabapentin
 
Attending: ___.
 
Chief Complaint:
AV Block and Bradycardia 
 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
Mr. ___ is an ___ year old male with a vague history of 
CAD as well as atrial flutter who presented with a GI bleed (hct 
to 26.5) and shock to ___ on ___. He received 3 units 
of pRBC and IVF out of concern for sepsis.  The patient was put 
on a PPI drip, and was transitioned to bolus therapy. 

His course there was complicated by fever of unclear etiology, 
and AV block with ventricular escape (>5 seconds, asymptomatic) 
on ___, as well as altered mental status. 

At ___, he underwent EGD which showed multiple Dieulafoy 
lesions which were clipped and injected with epinephrine.  He 
also had an LP which showed TP 37, 0 WBC, 84 RBC, Glucose 77H.

Aricept and Sinemet were discontinued ___ due to possible 
bradycardic side effects.

His last fever was ___ at 11:00pm at 102.4 F.

Vitals prior to transfer were T 98.9 HR 76 RR 19 BP 138/71 SaO2 
100% on RA.

On review of systems, (per his fiancee ___ he denies any 
prior history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. He denies 
recent fevers, chills or rigors. He denies exertional buttock or 
calf pain. All of the other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.
 
Past Medical History:
Parkinsonian Syndrome
Multiple head traumas (professional boxing, semi-professional
football, multiple street fights)
Dementia
Atrial Flutter - on anticoagulation
Coronary Artery Disease
BPH
Renal cell carcinoma, s/p nephrectomy
Lumbar spinal stenosis
Hypertension

 
Social History:
___
Family History:
- Father - massive stroke @ ___. Mother - CABG in ___.
- 7 brothers - HTN, no early CAD.
- No family history of early MI, arrhythmia, cardiomyopathies, 
or sudden cardiac death; otherwise non-contributory. 

 
Physical Exam:
Admission Physical Exam:
VS: T 98.1, BP 159/109, HR 66, RR 16, 100% RA   
General: Awake, confused, only oriented to person 
HEENT: anicteric sclera, moist mucus membranes  
Neck: supple, JVP 5cm      
CV: RRR, with audible S3, S4  
Lungs: Clear to ascultation  
Abdomen: soft, non-tender, nondistended. 
GU: no foley
Ext: no clubbing, cyanosis, or edema  
Neuro: CNII-XII grossly intact, cogwheel rigidity, resting 
tremor, confusion
Skin: warm, dry, without rashes 
PULSES: 2+ throughout all extremities 
.
Discharge Physical Exam:
VS: T 97.5 Ax, BP 143/84, HR 52, RR 18, 98% RA Wt. not recorded 
(65.9 kg ___   
General: Awake, alert, oriented x 3 
HEENT: anicteric sclera, moist mucus membranes  
Neck: supple, JVP 5cm      
CV: RRR, with audible S3, S4   
Lungs: Clear to ascultation  
Abdomen: soft, non-tender, nondistended. 
GU: no foley
Ext: no clubbing, cyanosis, or edema  
Neuro: CNII-XII grossly intact, cogwheel rigidity, resting 
tremor, confusion
Skin: warm, dry, without rashes 
PULSES: 2+ throughout all extremities   

 
Pertinent Results:
Admission Labs: 
___ 11:41PM   PLT COUNT-210
___ 11:41PM   NEUTS-72.0* LYMPHS-17.6* MONOS-7.2 EOS-2.6 
BASOS-0.6
___ 11:41PM   WBC-8.7 RBC-3.12*# HGB-9.2* HCT-26.3*# MCV-85 
MCH-29.5# MCHC-34.9# RDW-14.6
___ 11:41PM   CALCIUM-8.5 PHOSPHATE-2.3* MAGNESIUM-1.7
___ 11:41PM   estGFR-Using this
___ 11:41PM   GLUCOSE-163* UREA N-18 CREAT-1.0 SODIUM-142 
POTASSIUM-3.6 CHLORIDE-110* TOTAL CO2-25 ANION GAP-11
.
Interval Labs: 
___ 05:10AM BLOOD WBC-7.9 RBC-3.36* Hgb-9.8* Hct-29.0* 
MCV-86 MCH-29.1 MCHC-33.7 RDW-15.0 Plt ___
___ 10:05PM BLOOD Hct-27.0*
___ 11:41PM BLOOD Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-82 UreaN-16 Creat-1.0 Na-145 
K-4.4 Cl-110* HCO3-28 AnGap-11
___ 05:10AM BLOOD Calcium-9.1 Phos-2.7 Mg-2.4
___ 05:10AM BLOOD Vanco-24.4*
___ 05:25AM BLOOD WBC-9.1 RBC-3.41* Hgb-9.7* Hct-29.1* 
MCV-85 MCH-28.6 MCHC-33.5 RDW-14.6 Plt ___
___ 12:50PM BLOOD Hct-28.8*
___ 05:25AM BLOOD ___ PTT-30.2 ___
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD Glucose-92 UreaN-18 Creat-1.1 Na-142 
K-4.2 Cl-106 HCO3-30 AnGap-10
___ 05:25AM BLOOD Calcium-9.2 Phos-2.9 Mg-2.1
___ 05:25AM BLOOD Vanco-21.5*
___ 05:15AM BLOOD WBC-7.9 RBC-3.24* Hgb-9.6* Hct-27.5* 
MCV-85 MCH-29.6 MCHC-35.0 RDW-14.6 Plt ___
___ 05:15AM BLOOD Plt ___
.
Discharge Labs:
___ 05:10AM BLOOD WBC-7.7 RBC-3.37* Hgb-9.9* Hct-28.7* 
MCV-85 MCH-29.3 MCHC-34.4 RDW-14.6 Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-88 UreaN-22* Creat-1.1 Na-142 
K-3.8 Cl-105 HCO3-32 AnGap-9
___ 05:10AM BLOOD Calcium-8.8 Phos-3.3 ___ 
05:15AM BLOOD Glucose-78 UreaN-17 Creat-1.0 Na-141 K-4.0 Cl-106 
HCO3-30 AnGap-9
___ 05:15AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.1
.
Microbiology: 
Blood Cultures (___) from ___: No growth to date. 
. 
Pathology: None.
.
Imaging/Studies: 
# ECHO (___): The left atrium is mildly dilated. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. There is borderline mild global left 
ventricular hypokinesis (LVEF = 50 %). No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size is normal. with normal 
free wall contractility. The ascending aorta is mildly dilated. 
The aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No masses or vegetations are seen on 
the aortic valve. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. 
Trivial mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. There is borderline pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, LV 
systolic function is less vigorous
# CXR (___): In comparison with study of ___, there are 
continued low lung volumes that accentuates the transverse 
diameter of the heart.  Elevation of the right hemidiaphragm 
persists.  However, no acute pneumonia, vascular congestion, or 
pleural effusion.
# Scrotal US (___): IMPRESSION: 1. Unchanged abnormal 
appearance of the right testis with heterogeneous echotexture 
and trace surrounding vascularity, compatible with the sequela 
of infarct of most of the parenchyma.  Left testis with low 
normal vascularity. 2.  Multiple findings on the left including 
thickened ___, small-to-moderate complex hydrocele, as well 
as thickened prominent epididymal 
tail and pedicle with a small hyperechoic focus inferior to the 
testis 
together may represent a sequela of intermittent torsion and 
detorsion with hyperechoic focus likely representing hematoma.  
Less likely is chronic injury or epididymitis. 
 

 
Brief Hospital Course:
Mr. ___ is an ___ year old male with a vague history of 
CAD as well as atrial flutter who presented with GI bleed (hct 
26.5) and shock to ___ on ___. His course there was 
complicated by fever of unclear etiology, and AV block with 
ventricular escape (>5 seconds, asymptomatic) on ___, as well 
as altered mental status.

#) GASTROINTESTINAL BLEED: Dielafoy lesions identified at 
___ on EGD, status post clipping and epinephrine on ___. 
He was continued on IV pantoprazole. His home Warfarin was held 
during this hospital stay. He had 2 large bore peripheral IVs. 
He was ordered for a type and screen and he was constented for 
blood. His hematocrit dropped to 26.8 on the night of ___ but 
improved to 29 on repeat. His hematocrit has been stable since.  


#) Fever of Unclear etiology: Onset following EGD argues for 
possible GI tract translocation. OSH work-up has included blood 
cultures and lumbar puncture which were negative. He was 
continued on IV vancomycin and ceftriaxone. His last fever was 
102.4F at 11pm on ___ at ___. Infectious Disease was 
consulted and recommended getting a chest x-ray which showed no 
evidence of pneumonia. Evidence of R testicular infarction on 
testicular US on ___ at ___. Urology was consulted and 
recommended a repeat US on ___ which showed similar findings. 
Urology stated that the testicular infarction appeared to be a 
chronic issue that did not require operative intervention. He 
had an ECHO on ___ which showed no vegetations or signs of 
endocarditis. He remained afebrile throughout this admission.    
 

#) AV BLOCK/Bradycardia: This is a chronic issue per his 
outpatient cardiologist Dr. ___. He has never had a syncopal 
episode. AV block with ventricular escape (>5 seconds, 
asymptomatic) was noted at ___ on ___. The 
differential diagnoses of his conduction block included 
increased vagal tone, medications (include beta blocker, 
carbidopa-levodopa, donezepil), ischemia, fibrosis, & sclerosis 
of the conduction system.  It seemed unlikely that his 
donezepil, or carbidopa-levodopa were significant contributors 
to his AV block. (Donezepil causing AV block  0.001%-1% 
[Advances in Psychiatric Treatment (___) 13: 178-184].  There 
was limited data on carbidopa-levodopa causing bradyarrhythmias. 
His labetalol was held. He had a 3 second sinus pause noted on 
telemetry on ___ but there have been no events since. His 
heart rate remained in the ___. At___ cardiology was consulted 
and they do not believe he needs to have a pacemaker implanted 
at this time. He will have ___ of Hearts monitor mailed to 
him upon discharge. He will follow up with his cardiologist in 1 
month.   

#) HTN: Labetalol was held for concern of worsening bradycardia 
and AV block. His systolic blood pressure elevated to the 
170s-190s. His amlodpine dose was increased to 10mg and he was 
started on hydralazine.    

#) Groin pain/ Testicualr Infarction:  Evidence of R testicular 
infarction on testicular US on ___ at ___. Urology was 
consulted and recommended a repeat US on ___ which showed 
similar findings. Urology stated that the testicular infarction 
appeared to be a chronic issue that did not require operative 
intervention. He has had no groin pain on this admission.  

Chronic Diagnoses:
#) Hyperlipidemia: Continued home atorvastatin.
#) Parkinsonism: Continued home Sinemet and Donepazil. 
#) BPH: Continued home finasteride.

Trasitional Issues:
# He will have ___ of Hearts monitor mailed to his house.
# He will follow up with his PCP ___ ___, the ___ clinic 
on ___, his gastroenterologist ___, and his cardiologist 
on ___.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa CR (___) 1 TAB PO BID 
2. Carbidopa-Levodopa (___) 1 TAB PO TID 
3. Carbidopa-Levodopa (___) 0.5 TAB PO BID 
4. Lisinopril 20 mg PO DAILY 
5. Labetalol 100 mg PO TID 
6. Hydrocodone-Acetaminophen (5mg-500mg) 2 TAB PO DAILY 
7. Acetaminophen 1000 mg PO Q6H:PRN pain 
8. Vitamin D 1000 UNIT PO DAILY 
9. Finasteride 5 mg PO DAILY 
10. Simvastatin 20 mg PO DAILY 
11. Aspirin 81 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Amlodipine 5 mg PO DAILY 
14. Donepezil 5 mg PO HS 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. HydrALAzine 20 mg PO Q8H 
Hold for SBP < 100.  
RX *hydralazine 10 mg 2 tablet(s) by mouth three times a day 
Disp #*180 Tablet Refills:*0
3. Aspirin 81 mg PO DAILY 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. Carbidopa-Levodopa (___) 0.5 TAB PO BID 
6. Carbidopa-Levodopa CR (___) 1 TAB PO BID 
7. Donepezil 5 mg PO HS 
8. Finasteride 5 mg PO DAILY 
9. Hydrocodone-Acetaminophen (5mg-500mg) 2 TAB PO DAILY 
10. Lisinopril 20 mg PO DAILY 
Hold for SBP < 100 
11. Simvastatin 20 mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet,delayed release (___) by 
mouth daily Disp #*30 Tablet Refills:*0
14. Acetaminophen 500 mg PO Q6H:PRN pain 
15. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: GI Bleeding, AV block/ Bradycardia, Altered Mental 
Status, Right Testicular Infarction

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ in ___ after it was noted that 
your heart was beating slowly. At ___, you had a fever, 
groin pain, and gastroinsteninal bleeding which mostly resovled 
after you had an endoscopy. At ___, some of your blood 
pressure medications were changed and your heart rate remained 
normal. You will not need to get a pacemaker at this time. You 
had no fevers since ___. 

Your right testicle was found to have decreased blood flow and 
the urologists stated that you do not need to have an operation 
to remove the testicle at this time. 

You will have a heart monitor sent your home that you will for 
the next month. Please follow up with your cardiologist on 
___, the ___ clinic on ___, your gastroenterologist on 
___ and your PCP ___ ___. 

We wish you the best in the recovery process.  
 
Followup Instructions:
___